US08802864B2
f) 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
In a microwave vial, a mixture of 4-(4-bromophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (322 mg, 0.77 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-benzofuran (208 mg, 0.85 mmol), and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (32 mg, 0.04 mmol) in 2M aq potassium carbonate solution (1.5 mL, 3 mmol) and 1,4-dioxane (3 mL) was stirred at 100° C. for 3 h. The reaction was cooled to room temperature. The layers were separated and an aliquot of the basic potassium carbonate aqueous layer was analyzed by LCMS and showed that desired product was present. The aqueous layer was acidified using 1N aq HCl solution to pH˜6 by pH paper and was extracted with ethyl acetate (2×50 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo. Purification of the residue by silica gel chromatography (Analogix IF280, 0-10% MeOH/CH2Cl2, SF15-12 g, 20 min) followed by another purification (100% EtOAc for 10 min and then 0-8% MeOH/CH2Cl2 for 15 min) and finally subsequent purification by silica gel chromatography (Analogix IF280, SF15-4-g, Solvent A=EtOAc; Solvent B=10% MeOH/CH2Cl2; Gradient: 100% A for 10 min then ramped to 100% B over 20 min (i.e. 0-100% of B/A) provided the title product as a pale yellow solid (232 mg, 0.53 mmol, 69%). MS(ES)+ m/e 428.9 [M+H]+.

reactant | 4-(4-bromophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.77 mmol, 322 mg | BrC1=CC=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O | C17H19BrN4O2
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-benzofuran | 0.85 mmol, 208 mg | CC1(OB(OC1(C)C)C=1C=CC2=C(C=CO2)C1)C | C14H17BO3
reactant | potassium carbonate | 3 mmol, 2M, 1.5 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.53 mmol, 232 mg, 69% | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(NN=C2C[C@H]2CN(CC2)C(=O)C2CC2)=O | C25H24N4O3
